US04486589
2-(Chloromethyl)-N-(butylaminocarbonyl)benzenesulfonamide
A mixture of 2-(chloromethyl)benzenesulfonamide (13.2 g, 64 mmol) and butyl isocyanate (7.0 g, 71 mmol) in xylene (80 ml) was contacted with diazabicyclo[2.2.2]-octane (0.25 g) and heated to reflux for 5.0 hrs. Volatiles were removed under vacuum and the residue was treated with 0.5N NaOH (200 ml) and extracted with ethyl acetate (75 ml). The aqueous layer was separated, chilled, acidified (pH 4) with hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to give 14.6 g of white solid. A sample was recrystallized from toluene to give m.p. 104°-106°. 1H nmr δCDCl3TMS 9.5-8.1 (brds), 8.05-7.10 (m), 6.28 (t, J=2 Hz), 4.91 (s), 3.25-2.95 (m), 1.70-0.70 (m).

reactant | 2-(chloromethyl)benzenesulfonamide | 64 mmol, 13.2 g | ClCC1=C(C=CC=C1)S(=O)(=O)N | C7H8ClNO2S
reactant | butyl isocyanate | 71 mmol, 7.0 g | C(CCC)N=C=O | C5H9NO
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | diazabicyclo[2.2.2]-octane | 0.25 g | N12NCC(CC1)CC2 | C6H12N2
product | 2-(Chloromethyl)-N-(butylaminocarbonyl)benzenesulfonamide | 14.6 g | ClCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NCCCC | C12H17ClN2O3S
